US04013769
A solution of 3-mercapto-1,2,4-triazole and 3-amino-propanol in hydrobromic acid is heated under reflux for 24 hours. The reaction mixture is evaporated to dryness and the residue recrystallised from ethanol/ether to give 3-(3-aminopropylthio)-1,2,4-triazole dihydrobromide.

reactant | 3-mercapto-1,2,4-triazole | SC1=NNC=N1 | C2H3N3S
reactant | 3-amino-propanol | NCCCO | C3H9NO
reactant | hydrobromic acid | Br | BrH
product | 3-(3-aminopropylthio)-1,2,4-triazole dihydrobromide | Br.Br.NCCCSC1=NNC=N1 | InChI=1S/C5H10N4S.2BrH/c6-2-1-3-10-5-7-4-8-9-5;;/h4H,1-3,6H2,(H,7,8,9);2*1H
